US09085583B2
To a solution of tert-butyl 4-(methoxy(methyl)carbamoyl)piperidine-1-carboxylate (4.0 g, 14.69 mmol) in tetrahydrofuran (50 mL) was added methylmagnesium bromide solution (5.25 g, 44.06 mmol, 3M) at −70° C. over 0.5 hour. The resultant mixture was stirred at room temperature for 16 hours. The reaction solution was adjusted pH to 6.0 by 1.0M hydrochloride solution. The aqueous phase was extracted with ethyl acetate (100 ml*3). The combined organic layers was washed with brine, dried over sodium sulfate and concentrated under vacuum to give tert-butyl 4-acetylpiperidine-1-carboxylate as a yellow liquid (2.6 g, yield 77.8%). LRMS (M+H+) m/z: calcd 227.15. found 228.

reactant | tert-butyl 4-(methoxy(methyl)carbamoyl)piperidine-1-carboxylate | 14.69 mmol, 4.0 g | CON(C(=O)C1CCN(CC1)C(=O)OC(C)(C)C)C | C13H24N2O4
reactant | methylmagnesium bromide | 44.06 mmol, 3M, 5.25 g | C[Mg]Br
reactant | hydrochloride | 1.0M | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-acetylpiperidine-1-carboxylate | 2.6 g, yield 77.8% | C(C)(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C12H21NO3
